US04060526
Step 7. 5-Ethoxy-2-(2-[4-phenyl-1-piperazinyl]ethylamino)benzamide
5-Benzyloxy-2-(2-[4-phenyl-1-piperazinyl]ethylamino)benzamide (1.8 g) in 35 ml ethanol was hydrogenated using 1 g 5% Pd-C catalyst. The mixture was heated to boiling and filtered. The filtrate was cooled and the solid filtered and washed to give 0.7 g product, m.142-3°.

reactant | 5-Benzyloxy-2-(2-[4-phenyl-1-piperazinyl]ethylamino)benzamide | 1.8 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)N)C1)NCCN1CCN(CC1)C1=CC=CC=C1 | C26H30N4O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | Pd-C | 1 g | [Pd] | Pd
product | 5-Ethoxy-2-(2-[4-phenyl-1-piperazinyl]ethylamino)benzamide | 0.7 g | C(C)OC=1C=CC(=C(C(=O)N)C1)NCCN1CCN(CC1)C1=CC=CC=C1 | C21H28N4O2
